Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
metformin
 
Attending: ___.
 
Chief Complaint:
Dyspnea.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ year old ___ speaking male with CKD, DM2, HTN here from 
PCP with dyspnea.

Patient states that he has been having dyspnea with exertion for 
the last 2 months. His dyspnea has not changed at all in 
serverity or frequency during that time. SOB limited to exertion 
and generally does not occur at rest. However, last ___ 
patient noted new episode of PND. Patient notes orthopnea for 
the last ___ years and sleeps on ___ pillows. He has noticed 
worsening ___ edema over the last two months as well. Patient 
denies any CP, palpitations. No fevers, chills, URI sx over the 
last two months. States that he has a chronic dry cough, which 
has not acutely changed. 

Patient was seen by his PCP who was concerned about his symptoms 
and thought he might be having a CHF exacerbation and referred 
him to the ED.
 
In the ED, initial vitals were 98.7 81 152/88 18 100% RA. Labs 
notable for Hct 30.1, K 3.1, Mg 1.5, Cr 2.0, alb 2.7, trop 0.02, 
BNP ___. CXR without evidence of pulmonary edema. Bedside TTE 
showed small pericardial effusion with poor squeeze.   

On arrival to the floor, patient appears comforatably. Denies 
any current CP or SOB. States that he is having 
numbness/tingling that is not painful in his bilateral lower 
extremities, which is chronic. Otherwise has no focal 
complaints. 
 

 
Past Medical History:
1. HTN
2. HLD
3. CKD, stage III (baseline Cr 1.8-2.0) 
4. Anemia (baseline Hct ___
5. DM2

 
Social History:
___
Family History:
Father - died of esophageal cancer. Mother - died of CVA. Sister 
and brother - DM2. 
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
VS: 98.1 180/100 91 18 100% RA pulsus = 10
General: NAD, comfortable, pleasant
HEENT: NCAT, PERRL, EOMI
Neck: Supple, no JVD
CV: RRR, nl S1 and S2, no m/r/g
Lungs: CTAB, no w/r/r
Abdomen: Soft, NT/ND, BS+
Ext: WWP, trace b/l lower extremity edema, 2+ distal pulses 
bilaterally
Neuro: A&Ox3, CN II-XII grossly intact, sensation to light touch 
grossly intact throughout, strength ___ in all four extremities

DISCHARGE PHYSICAL EXAM
========================
VS: 98.2 98.5 158/94 (130-199/86-121) 80 16 98% RA
Wt: 70.1 (71.1)
I/O: MN - ___ 24 hr - 780/1200
General: NAD, comfortable, pleasant
HEENT: NCAT, PERRL, EOMI
Neck: Supple, no JVD
CV: RRR, nl S1 and S2, no m/r/g
Lungs: CTAB, no w/r/r
Abdomen: Soft, NT/ND, BS+
Ext: WWP, trace b/l lower extremity edema, 2+ distal pulses 
bilaterally
Neuro: A&Ox3, CN II-XII grossly intact, sensation to light touch 
grossly intact throughout, strength ___ in all four extremities
 
Pertinent Results:
ADMISSION LABS
===============
___ 11:47AM BLOOD WBC-5.1 RBC-3.36* Hgb-10.1* Hct-29.4* 
MCV-88 MCH-30.2 MCHC-34.5 RDW-14.0 Plt ___
___ 11:47AM BLOOD Neuts-74.6* Lymphs-15.9* Monos-8.1 
Eos-1.1 Baso-0.4
___ 11:47AM BLOOD UreaN-31* Creat-2.0* Na-137 K-3.2* Cl-99 
HCO3-31 AnGap-10
___ 11:47AM BLOOD Calcium-7.8* Cholest-244*
___ 10:44AM BLOOD ALT-17 AST-23 AlkPhos-52 TotBili-0.5

CARDIAC LABS
===============
___ 10:44AM BLOOD cTropnT-0.02*
___ 10:44AM BLOOD CK-MB-4 proBNP-___*

PERTINENT LABS
===============
___ 06:10AM BLOOD %HbA1c-6.5* eAG-140*
___ 11:47AM BLOOD Triglyc-166* HDL-69 CHOL/HD-3.5 
LDLcalc-142*
___ 06:40AM BLOOD TSH-1.8
___ 06:40AM BLOOD ___

DISCHARGE LABS
===============
___ 06:10AM BLOOD WBC-3.9* RBC-3.35* Hgb-10.0* Hct-29.0* 
MCV-86 MCH-29.9 MCHC-34.6 RDW-12.9 Plt ___
___ 06:10AM BLOOD Glucose-174* UreaN-26* Creat-2.1* Na-138 
K-3.7 Cl-101 HCO3-31 AnGap-10
___ 06:10AM BLOOD Calcium-8.1* Phos-4.3 Mg-1.9

STUDIES
========
CXR ___:
Frontal and lateral radiographs of the chest. Lung volumes are 
low.  There is stable appearance of mild enlargement of the 
cardiac silhouette which is new from older prior. Likely small 
left pleural effusion is unchanged with associated atelectasis. 
No significant right pleural effusion. Slighlyt increased 
interstitial markings seen without frank pulmonary edema. No 
focal consolidation or pneumothorax.   
IMPRESSION: Mild cardiomegaly, which is new since ___, and 
small left pleural effusion. Pulmonary vascular congestion. 
 
TTE ___:
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild regional left ventricular systolic dysfunction with 
hypokinesis of the basal to mid inferior segments. Doppler 
parameters are indeterminate for left ventricular diastolic 
function. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve leaflets are structurally 
normal. Mild to moderate (___) mitral regurgitation is seen. 
The pulmonary artery systolic pressure could not be determined. 
There is a small to moderate sized pericardial effusion. The 
effusion appears circumferential. There are no echocardiographic 
signs of tamponade. 
IMPRESSION: Mild focal left ventricular systolic dysfunction. 
Mild to moderate mitral regurgitation. Small to moderate 
pericardial effusion without evidence of tamponade physiology.  

CT CHEST ___:
1.  Small pericardial effusion.   
2.  Small bilateral pleural effusions, left greater than right. 
3.  Pulmonary nodules in the right lung, up to 6 mm.  If the 
patient is low risk, follow-up CT is recommended in 12 months.  
If the patient is high risk, follow-up CT is recommended in ___ 
and ___ months. 

ETT-ECHO ___:
This ___ yo IDDM man with a PMH of HTN & HLD was referred to the 
lab for evaluation of 3 months of shortness of breath and 
lightheadedness. The patient exercised for 2 minutes on ___ 
protocol and was stopped for a marked drop in systolic BP 
associated with mild pre-syncope. The estimated peak MET 
capacity was 3.8 which represents a poor exercise tolerance for 
his age. The patient denied any arm, neck, back, or chest 
discomfort or inappropriate dyspnea throughout the procedure. He 
did however report mild lightheadedness and marked bilateral 
lower extremity fatigue and soreness at a low workload. The 
lightheadedness resolved by 2 minutes post-exercise. There were 
no ST segment changes seen during exercise or recovery. The 
rhythm was sinus without ectopy. The HR increased with exercise 
but was overall blunted due to beta blockade. There was a 
significant drop in SBP at the onset of exercise (122/74 to 
80/60; confirmed with BP measurements). 
IMPRESSION: Poor functional exercise capacity. Abnormal BP 
response to 
exercise associated with mild lightheadedness at low workload. 
No 
significant ST segment changes or anginal symptoms to low 
workload. 
Echo report sent separately. 

The patient exercised for 2 minutes 0 seconds according to a 
___ treadmill protocol ___ METS) reaching a peak heart rate 
of 85 bpm and a peak blood pressure of 80/palp mmHg. The test 
was stopped because of a hypotensive response. This level of 
exercise represents a poor exercise tolerance for age. In 
response to stress, the ECG showed no ST-T wave changes (see 
exercise report for details). The blood pressure response to 
stress was abnormal/hypotensive. There was a blunted heart rate 
response to stress [beta blockade]. 
Resting images were acquired at a heart rate of 76 bpm and a 
blood pressure of 122/74 mmHg. These demonstrated regional left 
ventricular systolic dysfunction with hypokinesis of the basal 
half of the inferior wall. The remaining segments contracted 
well (LVEF = 50 %). Right ventricular free wall motion is 
normal. There is a small inferolateral pericardial effusion. 
Doppler demonstrated mild-moderate mitral regurgitation with no 
aortic stenosis, aortic regurgitation or significant resting 
LVOT gradient. 
Echo images were acquired within 33 seconds after peak stress at 
heart rates of 86 - 76 bpm. These demonstrated no new regional 
wall motion abnormalities. Baseline abnormalities persist with 
appropriate augmentation of other segments. There was 
augmentation of right ventricular free wall motion. 
IMPRESSION: Poor functional exercise capacity. No ECG changes 
with 2D echocardiographic evidence of prior myocardial 
infarction without inducible ischemia to achieved low workload. 
Abnormal hemodynamic/hypotensive response to physiologic stress. 
Mild-moderate mitral regurgitation at rest. Small inferolateral 
pericardial effusion. 

RENAL U/S WITH DOPPLER ___:
Normal waveforms of the bilateral main renal arteries, with no 
evidence of renal artery stenosis. 
 
 
Brief Hospital Course:
___ year old ___ speaking male with CKD, DM2, HTN here from 
PCP with dyspnea found to have small pericardial effusion and 
hypertension.  

ACUTE ISSUES
# Dyspnea: Patient without prior diagnosis of CHF, though PCP 
referred the patient to ___ ED because felt that DOE was 
concerning for CHF. TTE was done, which showed focal wall motion 
abnormality in basal and inferior walls, but no evidence of 
systolic or diastolic dysfunction. Given lack of CHF, the 
patient's dyspnea was thought to potentially be due to his 
pericardial effusion, hypersension in the setting of kidney 
dysfunction, or anginal equivalent. Given the new focal wall 
motion abnormality and possibility of dyspnea being anginal 
equivalent, the patient underwent a stress-TTE. He had poor 
functional exercise capacity with abnormal BP response to 
exercise associated with mild lightheadedness at low workload. 
There were no significant ST segment changes or anginal symptoms 
to low workload. Given that the patient only achieved ___ METS 
prior to his BP drop, the stress test was non-diagnostic. 
Outpatient cardiac catheterization can be considered, but was 
not felt to be necessary at this time. It was thought that the 
patient's dyspnea was most likely related to his poorly 
controlled hypertension in the setting of CKD. Pericardial 
effusion was small and not thought to be contributing to his 
shortness of breath. Throughout his admission, the patient was 
maintained on room air. Please see below for further management 
of HTN and pericardial effusion. 

# Pericardial effusion: Patient with new pericardial effusion of 
unknown etiology. History has been unrevealing as to cause. CHF 
initially was the most likely cause, given his elevated BNP and 
CXR with vascular congestion, but TTE did not indicate systolic 
or diastolic dysfunction. Next most likely would be uremic, 
though his BUN/Cr are similar to his baseline. Infectious seems 
unlikely given that he has no recent history of fevers, chills, 
other sx. However, the patient does have a chronic dry cough (no 
hemoptysis) and comes from an area with endemic TB, so this 
could be a possibility. A PPD was planted on ___ and the 
patient was instructed to have it read at his PCP's office on 
___. Other causes could be undiagnosed autoimmune disease or 
hypothyroidism, but again the patient did not have specific 
symptoms to suggest this. TSH 1.8. ___ was negative. Neoplastic 
effusion was also on the general differential, as he does have a 
smoking history, but seemed a more remote possibility. CT chest 
was performed, which showed a 6 mm nodule that will require 
follow-up in 6 months, but no evidence of malignancy. Throughout 
the patient's stay his pulses was wnl. There was no sign of 
tamponade by physical exam or TTE and the the patient remained 
hemodynamically stable throughout his hospital course. 

# HTN: On admission patient with BPs 180/100. Patient unsure of 
his home medications at the time of admission, but states that 
he is compliant with the regimen prescribed by his PCP. Throught 
the early part of the patient's admission his BPs were elevated 
into 200s/110s, though the patient was asymptomatic throughout. 
Secondary causes of hypertension were evaluated and renal u/s 
did not reveal any renal artery stenosis. For increased blood 
pressure control, amlodipine was increased from 5 to 10 mg QD 
and chlorthalidone 25 mg PO QD was added. He was also continued 
on lisinopril 40 mg PO QD. Blood pressure improved prior to 
discharge, but patient will require further outpatient 
management of blood pressures and review of mediactions to 
ensure compliance. 

CHRONIC ISSUES
# CKD, stage III: Stable. Baseline 1.8-2.0. Cr at discharge 2.1.

# HLD: Stable. Continued atorvastatin.

# Anemia: Stable. Baseline Hct ___. Hct at discharge 29.0. 

# Peripheral neuropathy: Patient with bilateral leg 
numbness/tingling, which he states is chronic. Patient started 
on low-dose gabapentin 100 mg PO BID during the admission, given 
his low GFR. Cr should be monitored as an outpatient and dose 
should be adjusted accordingly. 

TRANSITIONAL ISSUES
- Medications added: chlorthalidone 25 mg PO QD, benzonatate 100 
mg PO TID PRN cough, gabapentin 100 mg PO BID
- Medications changed: amlodipine increased from 5 mg PO QD to 
10 mg PO QD
- Check PPD (L forearm) on ___. 
- Follow-up: HbA1C.
- Chest CT was performed, which showed 6 mm RML nodule. Please 
perform repeat chest CT in 6 months, to ensure stability.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amlodipine 5 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Aspirin 325 mg PO DAILY 
5. Glargine Unknown Dose

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
5. Lisinopril 40 mg PO DAILY 
6. Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0
7. Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0
8. Gabapentin 100 mg PO Q12H 
RX *gabapentin 100 mg 1 capsule(s) by mouth twice a day Disp 
#*14 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1. Hypertension
2. Pericardial effusion
Secondary:
1. Chronic Kidney Disease
2. Diabetes Mellitus Type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

You were referred to the ED after you presented to your PCP with 
shortness of breath. During your stay you were found to have a 
small fluid collection around your heart, which was likely 
unrelated to your symptoms. Your blood pressure was difficult to 
control while in the hospital and some new medications needed to 
be added. This elevated blood pressure and your kidney disease 
are likely contributing to your shortness of breath. 

Please continue to take your medications as prescribed. Please 
follow-up with your PCP and your new cardiologist at the 
appointments listed below. 
 
Followup Instructions:
___